US04596870
1-Chloromethylthio-4-methoxybenzene
4-Methoxythiophenol (40 mmol) was dissolved in bromochloromethane (0.8 mol) and triethylamine (40 mmol) added dropwise with stirring and external cooling to keep the reaction below room temperature. Once the addition was completed the reaction mixture was stirred at room temperature for 1 h. The mixture was then washed with water, the organic solution dried (MgSO4), the solvent evaporated off and the residue distilled; yield: 3.90 g (52%), b.p. 70° C./0.01 mmHg. The physical data for the title compound are detailed in J. Hayami, N. Tanaka, S. Kurabayashi, Y. Kotani and A. Kaji; Bull. Chem. Soc. (Japan) 44, 3091 (1971).

reactant | 4-Methoxythiophenol | 40 mmol | COC1=CC=C(C=C1)S | C7H8OS
reactant | bromochloromethane | 0.8 mol | BrCCl | CH2BrCl
reactant | triethylamine | 40 mmol | C(C)N(CC)CC | C6H15N
product | 1-Chloromethylthio-4-methoxybenzene | ClCSC1=CC=C(C=C1)OC | C8H9ClOS
